US09290517B2
Step C: 2-chloro-8-(methylsulfonyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-purine
To a stirring solution of 2-chloro-8-(methylsulfonyl)-7H-purine (570 mg, 2.45 mmol) and N,N-diisopropylethylamine (3.42 mL, 19.60 mmol) in anhydrous DMF (16.7 mL) was added 2-(trimethylsilyl)ethoxymethyl chloride (2.17 mL, 12.25 mmol). The reaction was stirred under N2 at RT for 20 h, then added to EtOAc (1.0 L) and washed with saturated NH4Cl (0.2 L). The aqueous layer was separated and back-extracted with EtOAc (0.2 L). The organic layers combined and evaporated under reduced pressure. Flash chromatography of the resulting residue utilizing a 24 g silica RediSep Rf® Gold column and employing a 0-40% EtOAc/hexane gradient afforded the title compound. LC-MS: calculated for C12H19ClN4O3SSi 362.06 observed m/e: 385.30 (M+23)′ (Rt 1.33/2.0 min)

reactant | 2-chloro-8-(methylsulfonyl)-7H-purine | 2.45 mmol, 570 mg | ClC1=NC=C2NC(=NC2=N1)S(=O)(=O)C | C6H5ClN4O2S
reactant | N,N-diisopropylethylamine | 19.60 mmol, 3.42 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 12.25 mmol, 2.17 mL | C[Si](CCOCCl)(C)C | C6H15ClOSi
reactant | EtOAc | 1.0 L | CCOC(=O)C | C4H8O2
solvent | DMF | 16.7 mL | CN(C)C=O | C3H7NO
product | 2-chloro-8-(methylsulfonyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-purine | ClC1=NC=C2N(C(=NC2=N1)S(=O)(=O)C)COCC[Si](C)(C)C | C12H19ClN4O3SSi
